US05614544
A mixture of 4-[3-(5-methyl-2-phenyl-4-oxazolyl)propionyl]benzaldehyde (6.0 g), (triphenylphosphoranylidene)acetaldehyde [(C6H5)3P=CHCHO](6.29 g) and benzene (100 ml) was stirred under refluxing conditions for 24 hours. The reaction mixture was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography. From the fraction eluted with ethyl acetate-hexane (1:2), 4-[3-(5-methyl-2-phenyl-4-oxazolyl)propionyl]cinnamaldehyde (4.08 g, 63%) was obtained, which was then recrystallized from dichloromethane-isopropyl ether to yield colorless prisms having a melting point of 119°-120° C.

reactant | 4-[3-(5-methyl-2-phenyl-4-oxazolyl)propionyl]benzaldehyde | 6.0 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCC(=O)C1=CC=C(C=O)C=C1 | C20H17NO3
reactant | (triphenylphosphoranylidene)acetaldehyde | 6.29 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=O | C20H17OP
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 4-[3-(5-methyl-2-phenyl-4-oxazolyl)propionyl]cinnamaldehyde | 4.08 g, 63% | CC1=C(N=C(O1)C1=CC=CC=C1)CCC(=O)C1=CC=C(C=CC=O)C=C1 | C22H19NO3
